US20010000345A1
A mixture of 10 g of 1-chloro-2,4-dinitrobenzene and 20.26 g of N,N-dimethylthioformamide is heated to 60° C. for 3 hours. The resulting solid is suspended in 25 mL of xylene and the mixture is heated to reflux for 4 hours. The mixture is allowed to cool to room temperature and 15 mL of ethanol are added. The resulting suspension is filtered, and the brown solid is washed with a minimum amount of ethanol. The solid is dissolved in 120 mL of ethanol, heated to boiling, and filtered hot to remove trace solids. After reduction of the volume to about 100 mL, the solution is allowed to stand overnight at room temperature. The resulting solid is filtered and washed with ethanol to provide 4.68 g of 5-nitrobenzothiazole as reddish-brown needles.

reactant | 1-chloro-2,4-dinitrobenzene | 10 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | N,N-dimethylthioformamide | 20.26 g | CN(C=S)C | C3H7NS
reactant | ethanol | 15 mL | C(C)O | C2H6O
solvent | xylene | 25 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 5-nitrobenzothiazole | 4.68 g | [N+](=O)([O-])C=1C=CC2=C(N=CS2)C1 | C7H4N2O2S
